US05925769
N-Hydroxy-N-(1(1-(4-methoxyphenyl)-5-(4-methylphenyl)pyrazol-3-yl)-1-propyn-3-yl)urea (Cpd. 1).
Alternatively, N-phenoxycarbonyl-N-(1(1-(4-methoxyphenyl)-5-(4-methylphenyl)-3-pyrazolyl)-1-propyn-3-yl)hydroxylamine (4.67 mmol, 2.12 g) was dissolved in 20 mL of 14% w/w solution of ammonia in MeOH and stirred overnight in a stoppered round-bottomed flask. The solution was concentrated to give 2.2 g of orange oil which was purified by MPLC to give 0.89 g (51%) of Cpd. 1 as an off white solid. Tables I & J list the analytical data for Cpd. 1 as well as other compounds which were prepared in this manner.

reactant | N-phenoxycarbonyl-N-(1(1-(4-methoxyphenyl)-5-(4-methylphenyl)-3-pyrazolyl)-1-propyn-3-yl)hydroxylamine | 4.67 mmol, 2.12 g | O(C1=CC=CC=C1)C(=O)N(O)CC#CC1=NN(C(=C1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)OC | C27H23N3O4
reactant | ammonia | N | H3N
solvent | MeOH | CO | CH4O
product | N-Hydroxy-N-(1(1-(4-methoxyphenyl)-5-(4-methylphenyl)pyrazol-3-yl)-1-propyn-3-yl)urea | 2.2 g | ON(C(=O)N)CC#CC1=NN(C(=C1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)OC | C21H20N4O3
